US05037822
1-[4-(1-Hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinethione
A mixture comprising 12.53 g of 1-[4-(1-hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinone, prepared as in Example 18 of the European Patent published under No. 0,033,578, and 7.5 g of Lawesson reagent (or 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide) in 250 cm3 of tetrahydrofuran is heated to reflux for 48 hours. The mixture is allowed to return to room temperature and is evaporated to dryness, and the residue is chromatographed on silica (eluant: benzene). 7.3 g of product are recovered. M.p. 173°-175° C. After crystallization in a chloroform/n-hexane mixture, 6 g of expected pure product are obtained. M.p. 176°-178° C.

reactant | 1-[4-(1-hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinone | 12.53 g | N1(CCCCCC1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O | C16H22N2O3S
reactant | Lawesson reagent | 7.5 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
product | 1-[4-(1-Hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinethione | N1(CCCCCC1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=S | C16H22N2O2S2
